US08471005B2
4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (650.00 mg, 1.227 mmol) was treated with trifluoroacetic acid (0.473 mL, 6.136 mmol) in methylene chloride (3 mL) at room temperature until complete reaction of starting material was observed by hplc analysis of reaction mixture. The reaction was quenched with minimum amount of saturated aqueous sodium carbonate, and was extracted extensively in dichloromethane. The combined organic extracts were dried over MgSO4 and then filtered. Evaporation of solvent under reduced pressure afforded [7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine as a yellow foam (504 mg, 96%) which was used without further purification in the next step.

reactant | 4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.227 mmol, 650.00 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC | C30H35N5O4
reactant | trifluoroacetic acid | 6.136 mmol, 0.473 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | [7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine | 504 mg, 96% | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCNCC2)OC | C25H27N5O2
